US06570039B2
(3S)-3-Amino-1-chloro-4-phenyl-2-butanone hydrochloride (2.0 g) was dissolved in water (34 ml). A solution (50 ml) of methyl chloroformate (0.858 ml) in toluene was added to the obtained solution. Further, an aqueous solution (15 ml) of sodium hydrogencarbonate (1.44 g) was added dropwise to the obtained mixture. They were stirred at room temperature for 1 hour to conduct the reaction. After the extraction with toluene twice and with ethyl acetate twice, the organic layers were combined together. The solvents were evaporated under reduced pressure. n-Hexane and 2-propanol were added to the residue. The obtained mixture was heated to 50° C. to obtain a homogeneous solution, which was cooled to 10° C. to form crystals. The crystals were taken by the filtration, washed with cold 2-propanol (6 ml) and then dried to obtain (3S)-3-methoxycarbonylamino-1-chloro-4-phenyl-2-butanone (1.70 g) in a yield of 78%.

reactant | (3S)-3-Amino-1-chloro-4-phenyl-2-butanone hydrochloride | 2.0 g | Cl.N[C@H](C(CCl)=O)CC1=CC=CC=C1
reactant | methyl chloroformate | 50 ml | ClC(=O)OC | C2H3ClO2
reactant | sodium hydrogencarbonate | 15 ml, 1.44 g | C(O)([O-])=O.[Na+]
solvent | water | 34 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3S)-3-methoxycarbonylamino-1-chloro-4-phenyl-2-butanone | 1.70 g, yield of 78% | COC(=O)N[C@H](C(CCl)=O)CC1=CC=CC=C1 | C12H14ClNO3
